US07126027B2
Methyl syringate (10 g, 0.047 mol) and potassium carbonate (8.5 g, 0.061 mol) were stirred in acetophenone (100 mL) at 135° C. Butyl bromide (6.6 mL, 0.061 mol) was added dropwise over 1.5 h and the reaction was stirred over 18 h at 135° C. The reaction was cooled, filtered and the inorganic solids washed with acetone (20 mL). The combined filtrate was concentrated under high vacuum to give a red oil which was redissolved in ether (50 mL) and washed with 2N aqueous NaOH (2×10 mL) and water (3×10 mL). The organic layer was dried using anhydrous NaSO4 and the solvent removed under reduced pressure. The crude product was redissolved in methanol (250 mL) followed by addition of aqueous potassium hydroxide (44%, 20 mL). After heating at reflux for 2 h the reaction mixture was allowed to cool down to room temperature and left to rest over 18 h. The solvent was then concentrated under reduced pressure, the residue reconstituted in water (100 mL) and the resulting aqueous solution washed with ether (3×30 mL). The aqueous layer was acidified to pH=1 with 5N HCl and the precipitated product collected by filtration. The crude product was recrystallised from methanol to give 6.1 g, 51% yield of 4-butyloxy-3,5-dimethoxybenzoic acid as a colourless solid. 1H NMR (CDCl3) δ: 0.98 (t, J=5.1 Hz, 3H), 1.49 (m, 2H), 1.74 (m, 2H), 3.91 (s, 6H), 4.06 (t, J=5 Hz, 2H), 7.37 (s, 2H). MS m/z 255.4 (MH+).

reactant | Methyl syringate | 0.047 mol, 10 g | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)OC | C10H12O5
reactant | potassium carbonate | 0.061 mol, 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Butyl bromide | 0.061 mol, 6.6 mL | C(CCC)Br | C4H9Br
solvent | acetophenone | 100 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-butyloxy-3,5-dimethoxybenzoic acid | 6.1 g, 51% yield | C(CCC)OC1=C(C=C(C(=O)O)C=C1OC)OC | C13H18O5
